US03962321
A mixture of one mole of nonanal, 2.5 moles of acetic anhydride, and 15 g. of anhydrous potassium acetate is refluxed for one hour and cooled. Excess acid is removed by a 2X wash with water, followed by 5% sodium carbonate wash to give 1-nonen-1-yl acetate as a relatively pure oil.

reactant | nonanal | one mole | C(CCCCCCCC)=O | C9H18O
reactant | acetic anhydride | 2.5 moles | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | C(C)(=O)[O-].[K+]
product | 1-nonen-1-yl acetate | C(C)(=O)OC=CCCCCCCC | C11H20O2
